US04451463
A 50% w/w dispersion of sodium hydride in oil (0.5 g.) was added in portions to propane-1,3-diol (5 ml.) and the mixture stirred at room temperature for 1 hour. 2-Amino-6-bromopyridine (0.85 g.) was added and the mixture stirred at 150° for 4 hours and then cooled to room temperature. The mixture was taken up in N aqueous HCl and washed with EtOAc and the aqueous phase basified with 10 N aqueous NaOH. The mixture was extracted three times with EtOAc and the combined extracts dried and evaporated to dryness to give a brown oil (1.6 g.). A portion of the oil (0.67 g.) was dissolved in acetonitrile (5 ml.) and the solution treated with 2,2,2-trifluoroethylisothiocyanate (0.3 g.). The mixture was kept at room temperature for 18 hours and then evaporated to dryness and the residue recrystallised from EtOH to give 6-[3-(2,2,2-trifluoroethyl)thioureido]-2-(3-hydroxypropoxy)pyridine (0.18 g.), m.p. 123°-124°.

reactant | sodium hydride | [H-].[Na+]
reactant | propane-1,3-diol | 5 ml | C(CCO)O | C3H8O2
reactant | 2-Amino-6-bromopyridine | 0.85 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | HCl | Cl | ClH
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.3 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 6-[3-(2,2,2-trifluoroethyl)thioureido]-2-(3-hydroxypropoxy)pyridine | 0.18 g | FC(CNC(NC1=CC=CC(=N1)OCCCO)=S)(F)F | C11H14F3N3O2S
